US08791161B2
tert-butyl(5-(hydroxymethyl)-4H-1,2,4-triazol-3-yl)carbamate
(5-amino-4H-1,2,4-triazol-3-yl)methanol (467 mg, 4.093 mmol), di-tert-butyl dicarbonate (1.16 g, 5.32 mmol), in t-BuOH (20 ml) was stirred at room temperature overnight. The solvent was removed and added ethyl acetate, filtered away the solid and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (10% MeOH in CH2Cl2) to give the title compound as a yellow oil (190 mg, 22%).

reactant | (5-amino-4H-1,2,4-triazol-3-yl)methanol | 4.093 mmol, 467 mg | NC=1NC(=NN1)CO | C3H6N4O
reactant | di-tert-butyl dicarbonate | 5.32 mmol, 1.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-BuOH | 20 ml | CC(C)(C)O | C4H10O
product | tert-butyl(5-(hydroxymethyl)-4H-1,2,4-triazol-3-yl)carbamate | 190 mg, 22% | C(C)(C)(C)OC(NC1=NN=C(N1)CO)=O | C8H14N4O3
